US07592477B2
Step a) Formation of 4-oct-1-ynylbenzaldehyde
The same procedure as employed in the preparation of Example 275 (step a) but using 4-bromobenzaldehyde and 1-octyne gave the title compound as a yellow oil (84%). 1H NMR (CDCl3, 300 MHz) δ 9.97 (s, 1H), 7.78 (d, 2H, J=8.3 Hz), 7.51 (d, 2H, J=8.3 Hz), 2.42 (t, 2H, J=7.0 Hz), 1.67-1.54 (m, 2H), 1.50-1.24 (m, 6H), 0.89 (m, 3H). M−(LC/MS(ESI)): 215.4. HPLC (Condition A), Rt: 5.17 min (HPLC purity: 78.6%).

reactant | 4-bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 1-octyne | C#CCCCCCC | C8H14
product | 4-oct-1-ynylbenzaldehyde | 84% | C(#CCCCCCC)C1=CC=C(C=O)C=C1 | C15H18O
